US07820825B2
A mixture of 6-methoxytryptamine (0.95 g, 5 mmol) and levulinic acid (0.7 g, 6 mmol) in ethoxyethanol is heated at ruflux temperature for 16 hours, cooled to room temperature and concentrated in vacuo to give 9-methoxy-11b-methyl-1,2,5,6,11,11b-hexahydro-indolizino[8,7-b]indol-3-one (0.97 g) identified by NMR, HPLC and MS [271.2 m/e (M+H)].

reactant | 6-methoxytryptamine | 5 mmol, 0.95 g | COC=1C=C2NC=C(CCN)C2=CC1 | C11H14N2O
reactant | levulinic acid | 6 mmol, 0.7 g | C(CCC(=O)C)(=O)O | C5H8O3
solvent | ethoxyethanol | C(C)OC(C)O | C4H10O2
product | 9-methoxy-11b-methyl-1,2,5,6,11,11b-hexahydro-indolizino[8,7-b]indol-3-one | 0.97 g | COC1=CC=C2C3=C(NC2=C1)C1(CCC(N1CC3)=O)C | C16H18N2O2
